2139-10-20 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2139-10-19**] 01:07 PM
 INVASIVE VENTILATION - START [**2139-10-19**] 01:07 PM
 TUNNELED (HICKMAN) LINE - START [**2139-10-19**] 02:01 PM
 ARTERIAL LINE - START [**2139-10-19**] 04:31 PM
 BLOOD CULTURED - At [**2139-10-19**] 05:19 PM
 URINE CULTURE - At [**2139-10-19**] 05:19 PM
 ULTRASOUND - At [**2139-10-19**] 05:34 PM
 WOUND CULTURE - At [**2139-10-19**] 10:30 PM
   culture from JP drain
 BLOOD CULTURED - At [**2139-10-20**] 04:00 AM
 FEVER - 102.3
F - [**2139-10-19**] 05:00 PM
   [**10-19**]
   - Abd U/S without focal fluid collection or hematoma.
   - Pan CT ordered.
   - Patient required several boluses for hypotension
   - Spiked fever and started on Vanc/Zosyn
   - given 2 U PRBC and 1 U Plts.
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2139-10-19**] 02:33 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-20**] 05:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2139-10-19**] 06:19 PM
   Fentanyl - [**2139-10-20**] 03:00 AM
   Midazolam (Versed) - [**2139-10-20**] 04:00 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-20**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.3
C (100.9
   HR: 95 (95 - 131) bpm
   BP: 81/51(63) {81/51(-12) - 130/77(300)} mmHg
   RR: 16 (10 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  4,505 mL
                                                                    516 mL
   PO:
             TF:
   IVF:
                                                                  3,458 mL
                                                                    516 mL
   Blood products:
                                                                    982 mL
   Total out:
                                                                  2,420 mL
                                                                    700 mL
   Urine:
                                                                    585 mL
                                                                    600 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
                                                                    210 mL
                                                                    100 mL
   Balance:
                                                                  2,085 mL
                                                                   -184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 439 (439 - 745) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 19 cmH2O
   Plateau: 12 cmH2O
   Compliance: 85.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/31/170/19/-3
   Ve: 9.7 L/min
   PaO2 / FiO2: 340
   Physical Examination
   GEN: intubated middle-aged man with bilateral AKA amputations,
   nonresponsive, on sedation
   HEENT: PERRL
   COR: normal rate, reg rhythm, no murmur, no palpable pulses
   PULM: coarse breath sounds throughout
   ABD: Soft, VAC in place, JP drain in place
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   EXT: warm, edematous
   Labs / Radiology
   62 K/uL
   8.2 g/dL
   78 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.7 mEq/L
   29 mg/dL
   108 mEq/L
   138 mEq/L
   23.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2139-10-19**]  01:28 PM
                            [**2139-10-19**]  02:08 PM
                            [**2139-10-19**]  02:12 PM
                            [**2139-10-19**]  02:29 PM
                            [**2139-10-19**]  03:36 PM
                            [**2139-10-19**]  04:51 PM
                            [**2139-10-19**]  06:36 PM
                            [**2139-10-19**]  10:35 PM
                            [**2139-10-20**]  02:13 AM
                            [**2139-10-20**]  02:55 AM
   WBC
   9.2
   8.7
   10.0
   9.3
   Hct
   17.5
   18.2
   23.2
   23.2
   Plt
   57
   62
   62
   62
   Cr
   1.0
   TropT
   0.02
   0.02
   TCO2
   28
   22
   27
   23
   20
   Glucose
   71
   58
   78
   Other labs: PT / PTT / INR:17.2/72.0/1.6, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:16/25, Alk Phos / T Bili:127/3.9,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.5 mg/dL, Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   # Acute Hypoxemic Resp failure: Etiology likely multifactorial:
   Sedation vs Aspiration. CTA negative for PE, although small pleural
   effusuions.
   - continue ventilator support
   - monitor ABG
   - head, chest, abd CT once more stable
   - stat bed-side abdominal u/s to look for bleed
   - f/u CEs
   - blood, sputum, urine culture
   # Hypotension: Became hypotensive after intubation on propofol although
   could have been intravascular hypovolemia given aggressive diuresis on
   the floor. Responsive partially to IVF. Concern for early sepsis,
   cultures NGTD, started vanco/zosyn empirically.
   - NS bolus and pRBC infusion; pressor as needed to keep MAP > 60
   - place arterial line
   - empiric pip-tazo and vanco
   - pan culture
   - hold diurectic
   #Anemia:  Received 2 pRBCs for a HCt of 18, appropriate bump to 23.
   Likely was [**1-24**] chronic disease, recent blood, dilutional. Abdominal CT
   negative for blood/fluid collection.
   - Serial Hct monitoring
   # Thrombocytopenia:  Heparin antibody negative.
   - Apprecitate hematology evaluation and recommendations.
 CROHN'S DISEASE (REGIONAL ENTERITIS)/SHORT GUT SYDROME ON CHRONIC
   TPN:  Continue TPN, insulin in TPN to maintain eurglycemia. Can use
   RISS as well. Albumin ~2.9.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Arterial Line - [**2139-10-19**] 04:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-10-20 17:25:00 Physician Attending Progress Note
Chief Complaint: acute repiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 y.o. man with Crohn's s/p multiple abdominal surgeries with short
   gut syndrome, now s/p resection of gastric carcinoma with abdominal
   wall extension.  Transferred to the MICU intubated for acute
   respiratory failure and hypotension.
   24 Hour Events:
 SPUTUM CULTURE - At [**2139-10-19**] 01:07 PM
 INVASIVE VENTILATION - START [**2139-10-19**] 01:07 PM
 TUNNELED (HICKMAN) LINE - START [**2139-10-19**] 02:01 PM
 ARTERIAL LINE - START [**2139-10-19**] 04:31 PM
 BLOOD CULTURED - At [**2139-10-19**] 05:19 PM
 URINE CULTURE - At [**2139-10-19**] 05:19 PM
 ULTRASOUND - At [**2139-10-19**] 05:34 PM
 WOUND CULTURE - At [**2139-10-19**] 10:30 PM
   culture from JP drain
 BLOOD CULTURED - At [**2139-10-20**] 04:00 AM
 FEVER - 102.3
F - [**2139-10-19**] 05:00 PM
   Head CT/lung CTA/abdominal CT yesterday - no evidence of acute CNS
   bleed, mass; no evidence for PE, large bilateral pleural effusions with
   compression atelectasis vs. inflitrates L > R; no evidence of
   intraabdominal bleed/fluid collection.
   Transfused 2 u pRBCs
   History obtained from Medical records
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2139-10-20**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-20**] 04:00 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2139-10-19**] 06:19 PM
   Furosemide (Lasix) - [**2139-10-20**] 11:08 AM
   Midazolam (Versed) - [**2139-10-20**] 04:59 PM
   Fentanyl - [**2139-10-20**] 04:59 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Parenteral nutrition
   Respiratory: ventilated
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-10-20**] 05:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.1
C (98.8
   HR: 84 (81 - 118) bpm
   BP: 104/61(71) {97/54(63) - 121/81(86)} mmHg
   RR: 11 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 56.9 kg
   Height: 70 Inch
          Total In:
                                                                  4,505 mL
                                                                  2,007 mL
   PO:
          TF:
   IVF:
                                                                  3,458 mL
                                                                  1,137 mL
   Blood products:
                                                                    982 mL
                                                                    750 mL
   Total out:
                                                                  2,420 mL
                                                                  2,310 mL
   Urine:
                                                                    585 mL
                                                                  2,070 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
                                                                    210 mL
                                                                    240 mL
   Balance:
                                                                  2,085 mL
                                                                   -303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 637 (439 - 637) mL
   PS : 8 cmH2O
   RR (Set): 13
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 14 cmH2O
   Plateau: 12 cmH2O
   Compliance: 85.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/36/177/19/-1
   Ve: 8.5 L/min
   PaO2 / FiO2: 354
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), bilateral LE amputee
   Respiratory / Chest: (Breath Sounds: Crackles : scattered, Diminished:
   bases)
   Abdominal: Soft, abdominal wound clean and dry, loop of bowel
   herniating through wound
   Extremities: bilateral LE amputee
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   62 K/uL
   78 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.7 mEq/L
   29 mg/dL
   108 mEq/L
   138 mEq/L
   23.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2139-10-19**]  02:08 PM
                            [**2139-10-19**]  02:12 PM
                            [**2139-10-19**]  02:29 PM
                            [**2139-10-19**]  03:36 PM
                            [**2139-10-19**]  04:51 PM
                            [**2139-10-19**]  06:36 PM
                            [**2139-10-19**]  10:35 PM
                            [**2139-10-20**]  02:13 AM
                            [**2139-10-20**]  02:55 AM
                            [**2139-10-20**]  02:19 PM
   WBC
   9.2
   8.7
   10.0
   9.3
   Hct
   17.5
   18.2
   23.2
   23.2
   Plt
   57
   62
   62
   62
   Cr
   1.0
   TropT
   0.02
   0.02
   TCO2
   22
   27
   23
   20
   23
   Glucose
   58
   78
   Other labs: PT / PTT / INR:17.2/72.0/1.6, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:16/25, Alk Phos / T Bili:127/3.9,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:2.4 g/dL, Ca++:7.5 mg/dL, Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):  No longer hypotensive following aggressive
   volume resusitation and transfusion of pRBCs.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Now component of volume
   overload from aggressive volume replacement over past 24 hours.  To
   receive blood transfusion, may be able to try to diurese with blood.
   Will need to mobilize fluid to move towards weaning from mechanical
   ventilation.  Will monitor for increased secretions albeit do not feel
   he has PNA at this time.  Changes on CT likely compression atelectasis
   from increased pleural effusions.
 CHRONIC PAIN: Receiving prn boluses of fentanyl for agitation or
   pain.  Appears comfortable.
 CROHN'S DISEASE (REGIONAL ENTERITIS): With associated short gut
   syndrome on TPN.
 ALTERATION IN NUTRITION: TPN, insulin in TPN to control sugars.
 CANCER (MALIGNANT NEOPLASM), GASTRIC: Wound appeared to be healing
   well when viewed with surgery/plastics this morning.  Loop of bowel
   herniating through. Plan as per surgery.  Holding lovenox per surgery
   for anticipated procedure.  GNR growing from bile.  Continues broad
   spectrum antibiotics for possible sepsis - vanco/zosyn.  Consider
   discontinue vanco if no other positive blood culture results in next 24
   hours.
 THROMBOCYTOPENIA:  Plts stable.  Heme onc service feels this is
   likely autoimmune mediated.
   ICU Care
   Nutrition:
   Comments: TPN
   Glycemic Control:  Insulin in TPN
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Arterial Line - [**2139-10-19**] 04:31 PM
   Prophylaxis:
   DVT: LMW Heparin(on hold for procedure)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2139-10-21 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2139-10-21**] 12:00 AM
 SPUTUM CULTURE - At [**2139-10-21**] 12:00 AM
 STOOL CULTURE - At [**2139-10-21**] 12:00 AM
 FEVER - 101.1
F - [**2139-10-20**] 08:00 AM
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2139-10-20**] 08:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-21**] 05:20 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2139-10-21**] 02:20 AM
   Furosemide (Lasix) - [**2139-10-21**] 03:15 AM
   Fentanyl - [**2139-10-21**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-21**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.7
C (99.8
   HR: 92 (74 - 100) bpm
   BP: 131/61(77) {95/37(51) - 144/89(101)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 56.9 kg
   Height: 70 Inch
          Total In:
                                                                  2,990 mL
                                                                  1,544 mL
   PO:
          TF:
   IVF:
                                                                  1,577 mL
                                                                    234 mL
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                  3,430 mL
                                                                    785 mL
   Urine:
                                                                  2,550 mL
                                                                    635 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
                                                                    380 mL
                                                                    150 mL
   Balance:
                                                                   -440 mL
                                                                    759 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 634 (402 - 746) mL
   PS : 8 cmH2O
   RR (Set): 13
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: 7.43/32/126//-1
   Ve: 15.4 L/min
   PaO2 / FiO2: 315
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   56 K/uL
   9.0 g/dL
   78 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.7 mEq/L
   29 mg/dL
   108 mEq/L
   138 mEq/L
   24.6 %
   10.7 K/uL
        [image002.jpg]
                            [**2139-10-19**]  02:29 PM
                            [**2139-10-19**]  03:36 PM
                            [**2139-10-19**]  04:51 PM
                            [**2139-10-19**]  06:36 PM
                            [**2139-10-19**]  10:35 PM
                            [**2139-10-20**]  02:13 AM
                            [**2139-10-20**]  02:55 AM
                            [**2139-10-20**]  02:19 PM
                            [**2139-10-20**]  04:40 PM
                            [**2139-10-21**]  06:37 AM
   WBC
   9.2
   8.7
   10.0
   9.3
   10.7
   Hct
   17.5
   18.2
   23.2
   23.2
   24.6
   Plt
   57
   62
   62
   62
   56
   Cr
   1.0
   TropT
   0.02
   0.02
   TCO2
   23
   20
   23
   22
   Glucose
   58
   78
   Other labs: PT / PTT / INR:17.2/72.0/1.6, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:16/25, Alk Phos / T Bili:127/3.9,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:2.4 g/dL, Ca++:7.5 mg/dL, Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 CHRONIC PAIN
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERATION IN NUTRITION
 CANCER (MALIGNANT NEOPLASM), SMALL BOWEL
   55yoM with Crohn's c/b multiple abdominal surgeries, recently dx with
   mucinous adenoca s/p tumor and small bowel resection that was found
   yesterday on the floor  with acute hypoxia and unresponsiveness.
   # Acute Hypoxemic Resp Failure: Etiology likely multifactorial: Pt now
   alert. Etiologies sedation vs qspiration vs early sepsis. CTA negative
   for PE, although small pleural effusuions.  RISB 46 this AM. Last ABG
   7.41/31/170.
   - continue ventilator support
   - monitor ABG
   - blood, sputum, urine culture
   - will likley change to CPAP/PS today. Will notify surgery prior to any
   plans for extubation.
   # Hypotension: Became hypotensive after intubation on propofol although
   could have been intravascular hypovolemia given aggressive diuresis on
   the floor. Responsive partially to IVF. Concern for early sepsis given
   GNRs on drainage gram stain, cultures NGTD, started vanco/zosyn.
   - Keeping MAPs > 60
   - empiric pip-tazo and vanco
   - f/u cultures
   - holding diurectics
   - IV Hydrocort
   - Will check JP drain for amylase, peritoneal cell count
   - TTE today to r/o vegetations
   - F/u any further surgical recs
   # Anemia:  Received 2 pRBCs for a HCt of 18, appropriate bump to 23.
   Likely was [**1-24**] chronic disease, recent blood, dilutional. Abdominal CT
   negative for blood/fluid collection.
   - 2 pRBCs this AM
   # Thrombocytopenia: Platelets 67. HIT negative.
   -          Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin ~2.9.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-20**] 05:51 PM 83.[**Telephone/Fax (5) 6137**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Arterial Line - [**2139-10-19**] 04:31 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-10-21 11:34:00 Physician Attending Progress Note
Chief Complaint: Gastric cancer s/p resection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2139-10-21**] 12:00 AM
 SPUTUM CULTURE - At [**2139-10-21**] 12:00 AM
 STOOL CULTURE - At [**2139-10-21**] 12:00 AM
 FEVER - 101.1
F - [**2139-10-20**] 08:00 AM
   Transfused total of 4 u pRBCs over the day yesterday, hct-30.2
   Received lasix with blood transfusions with diuresis
   History obtained from Patient
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2139-10-21**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-21**] 10:30 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2139-10-21**] 02:20 AM
   Fentanyl - [**2139-10-21**] 08:15 AM
   Furosemide (Lasix) - [**2139-10-21**] 10:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: [**12-24**] Minimal
   Flowsheet Data as of  [**2139-10-21**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 92 (74 - 98) bpm
   BP: 136/83(104) {91/58(73) - 136/92(327)} mmHg
   RR: 12 (0 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 56.9 kg
   Height: 70 Inch
          Total In:
                                                                  2,990 mL
                                                                  2,314 mL
   PO:
          TF:
   IVF:
                                                                  1,577 mL
                                                                    625 mL
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                  3,430 mL
                                                                  1,745 mL
   Urine:
                                                                  2,550 mL
                                                                  1,505 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
                                                                    380 mL
                                                                    240 mL
   Balance:
                                                                   -440 mL
                                                                    569 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 502 (402 - 746) mL
   PS : 5 cmH2O
   RR (Set): 13
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 13 cmH2O
   SpO2: 96%
   ABG: 7.43/32/126/21/-1
   Ve: 12.4 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), BLE amputee
   Respiratory / Chest: (Breath Sounds: Crackles : dependently,
   Diminished: bases)
   Abdominal: Soft
   Extremities: BLE amputee
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   52 K/uL
   125 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.2 mEq/L
   24 mg/dL
   106 mEq/L
   138 mEq/L
   30.2 %
   10.0 K/uL
        [image002.jpg]
                            [**2139-10-19**]  03:36 PM
                            [**2139-10-19**]  04:51 PM
                            [**2139-10-19**]  06:36 PM
                            [**2139-10-19**]  10:35 PM
                            [**2139-10-20**]  02:13 AM
                            [**2139-10-20**]  02:55 AM
                            [**2139-10-20**]  02:19 PM
                            [**2139-10-20**]  04:40 PM
                            [**2139-10-21**]  05:56 AM
                            [**2139-10-21**]  06:37 AM
   WBC
   9.2
   8.7
   10.0
   9.3
   10.7
   10.0
   Hct
   17.5
   18.2
   23.2
   23.2
   24.6
   30.2
   Plt
   57
   62
   62
   62
   56
   52
   Cr
   1.0
   0.9
   TropT
   0.02
   0.02
   TCO2
   23
   20
   23
   22
   Glucose
   78
   125
   Other labs: PT / PTT / INR:16.3/66.1/1.5, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:13/18, Alk Phos / T Bili:115/2.1,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:2.7 g/dL, LDH:387 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):  Resolved, most likely related to
   hypovolemia.  Continues empiric antibiotics for possibility of sepsis.
   Blood cultures negative to date.  Will continue for now.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Now limited from coming
   off the ventilator due to volume overload and bilateral pleural
   effusions.  Responding well to lasix. Has been PSV 5/PEEP 5/40% FiO2.
   RISB 43.  Anticipate extubation later today once we get him negative.
 IMPAIRED SKIN INTEGRITY:  Wound clean and dry. Surgery following.
 CHRONIC PAIN: Controlled with fentanyl boluses.  Will discuss plan
   for pain management following extubation.
 CROHN'S DISEASE (REGIONAL ENTERITIS) with short gut syndrome on TPN.
 ALTERATION IN NUTRITION: TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-20**] 05:51 PM 83.[**Telephone/Fax (5) 6137**] mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Arterial Line - [**2139-10-19**] 04:31 PM
   Prophylaxis:
   DVT: (LMW Heparin on hold for possible PTC per surgery)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-10-22 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -pt continued on TPN
   -lovenox given x1- may have procedure in am [**10-22**] so only given once
   -pt successfully extubated with good post-extubation ABG
   -Pt with difficult to control pain on fentanyl changed to Morphine PCA
   but limited IV
   access so changed to Morphine PRN
   -transfused pltx1
   -diuresed with lasix 20 IV x2
   -KCL repleted at 10pm
   - Poor A-Line tracing.
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2139-10-21**] 08:32 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-22**] 04:26 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2139-10-21**] 08:15 AM
   Midazolam (Versed) - [**2139-10-21**] 11:30 AM
   Furosemide (Lasix) - [**2139-10-22**] 12:16 AM
   Morphine Sulfate - [**2139-10-22**] 02:00 AM
   Lorazepam (Ativan) - [**2139-10-22**] 03:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-22**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.2
   HR: 92 (77 - 98) bpm
   BP: 97/70(81) {97/54(72) - 136/89(241)} mmHg
   RR: 17 (0 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 56.9 kg
   Height: 70 Inch
          Total In:
                                                                  4,018 mL
                                                                    958 mL
   PO:
          TF:
   IVF:
                                                                  1,211 mL
                                                                    261 mL
   Blood products:
                                                                    808 mL
                                                                    192 mL
   Total out:
                                                                  4,530 mL
                                                                  1,850 mL
   Urine:
                                                                  3,940 mL
                                                                  1,735 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
                                                                    440 mL
                                                                    115 mL
   Balance:
                                                                   -512 mL
                                                                   -892 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 744) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: 7.47/33/134/23/1
   Ve: 11 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), BLE amputee
   Respiratory / Chest: (Breath Sounds: Crackles : dependently,
   Diminished: bases)
   Abdominal: Soft
   Extremities: BLE amputee
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   48 K/uL
   10.2 g/dL
   141 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.3 mEq/L
   21 mg/dL
   107 mEq/L
   140 mEq/L
   28.4 %
   9.7 K/uL
        [image002.jpg]
                            [**2139-10-19**]  10:35 PM
                            [**2139-10-20**]  02:13 AM
                            [**2139-10-20**]  02:55 AM
                            [**2139-10-20**]  02:19 PM
                            [**2139-10-20**]  04:40 PM
                            [**2139-10-21**]  05:56 AM
                            [**2139-10-21**]  06:37 AM
                            [**2139-10-21**]  03:54 PM
                            [**2139-10-21**]  06:14 PM
                            [**2139-10-22**]  12:26 AM
   WBC
   10.0
   9.3
   10.7
   10.0
   9.7
   Hct
   23.2
   23.2
   24.6
   30.2
   28.4
   Plt
   62
   62
   56
   52
   43
   48
   Cr
   1.0
   0.9
   0.8
   TropT
   0.02
   0.02
   TCO2
   20
   23
   22
   25
   Glucose
   78
   125
   141
   Other labs: PT / PTT / INR:16.3/66.1/1.5, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:13/18, Alk Phos / T Bili:115/2.1,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:2.7 g/dL, LDH:387 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   55yoM with Crohn's c/b multiple abdominal surgeries, recently dx with
   mucinous adenoca s/p tumor and small bowel resection that was found
   yesterday on the floor  with acute hypoxia and unresponsiveness.
   # Acute Hypoxemic Resp Failure: Etiology likely multifactorial: Pt now
   alert. Etiologies sedation vs aspiration vs early sepsis. CTA negative
   for PE, although small pleural effusuions.  RISB 41 this AM. Last ABG
   7.41/31/170.
   - Diurese -1L today
   - monitor ABG
   - blood, sputum, urine culture
   - Consider extubation. Will notify surgery prior to any plans for
   extubation.
   # Hypotension: Became hypotensive after intubation on propofol.
   Responsive  to IVF. Concern for early sepsis given GNRs on drainage
   gram stain, cultures NGTD, started vanco/zosyn.  JP culture with3+
   GNR.  TTE w/o vegetations. Now fluid overloaded and diuresing.
   - Keeping MAPs > 60
   - empiric pip-tazo and vanco
   - f/u cultures
   - IV Hydrocort
   - Will check JP drain for amylase, peritoneal cell count
   - F/u any further surgical recs
   # Anemia:  Received 2 pRBCs for a HCt of 23, appropriate bump to 30.
   Abdominal CT negative for blood/fluid collection.
   - Serial Hct
   # Thrombocytopenia: Platelets 52. HIT negative.
   -          Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin ~2.9.
   # Skin Intergity
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-20**] 05:51 PM 83.[**Telephone/Fax (5) 6137**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Arterial Line - [**2139-10-19**] 04:31 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin, holding)
   Stress ulcer: sucralfate
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-10-22 11:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2139-10-21**] 02:11 PM
   Extubated yesterday afternoon, doing well
   Transfused platelets
   Pain controlled with minimal morphine overnight
   Received lasix for positive fluid balance
                   History obtained from Patient
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2139-10-21**] 08:32 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-22**] 04:26 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2139-10-21**] 11:30 AM
   Furosemide (Lasix) - [**2139-10-22**] 12:16 AM
   Morphine Sulfate - [**2139-10-22**] 02:00 AM
   Lorazepam (Ativan) - [**2139-10-22**] 03:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-10-22**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 87 (77 - 98) bpm
   BP: 113/64(84) {96/54(72) - 142/82(323)} mmHg
   RR: 18 (4 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 56.9 kg
   Height: 70 Inch
          Total In:
                                                                  4,018 mL
                                                                  1,429 mL
   PO:
          TF:
   IVF:
                                                                  1,211 mL
                                                                    311 mL
   Blood products:
                                                                    808 mL
                                                                    192 mL
   Total out:
                                                                  4,530 mL
                                                                  2,305 mL
   Urine:
                                                                  3,940 mL
                                                                  2,080 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
                                                                    440 mL
                                                                    225 mL
   Balance:
                                                                   -512 mL
                                                                   -876 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 744) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.47/33/134/25/1
   Ve: 11 L/min
   PaO2 / FiO2: 383
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), BLE amputee
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Abdominal: Soft, Bowel sounds present, wound vac in place; no discharge
   Extremities: BLE amputee
   Skin:  Warm, Stage II sacral decub
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   48 K/uL
   81 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.1 mEq/L
   22 mg/dL
   105 mEq/L
   140 mEq/L
   29.1 %
   8.9 K/uL
        [image002.jpg]
                            [**2139-10-20**]  02:13 AM
                            [**2139-10-20**]  02:55 AM
                            [**2139-10-20**]  02:19 PM
                            [**2139-10-20**]  04:40 PM
                            [**2139-10-21**]  05:56 AM
                            [**2139-10-21**]  06:37 AM
                            [**2139-10-21**]  03:54 PM
                            [**2139-10-21**]  06:14 PM
                            [**2139-10-22**]  12:26 AM
                            [**2139-10-22**]  05:40 AM
   WBC
   9.3
   10.7
   10.0
   9.7
   8.9
   Hct
   23.2
   24.6
   30.2
   28.4
   29.1
   Plt
   62
   56
   52
   43
   48
   48
   Cr
   1.0
   0.9
   0.8
   0.8
   TropT
   0.02
   TCO2
   20
   23
   22
   25
   Glucose
   78
   125
   141
   81
   Other labs: PT / PTT / INR:16.9/70.4/1.5, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:[**9-6**], Alk Phos / T Bili:121/1.6,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:2.7 g/dL, LDH:345 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):  Remains hemodynamically stable.  On
   maintenance fluids given he is still NPO. Cultures all remain NGTD.
   Consider stopping antibiotics, will discuss with surgical team.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Extubated with good
   gases, clinically stable from a respiratory standpoint overnight.
 IMPAIRED SKIN INTEGRITY:
 CHRONIC PAIN:  Requiring minimal morphine overnight.
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK):  Resolved, now total
   body fluid overloaded, diuresing.
 CROHN'S DISEASE (REGIONAL ENTERITIS) with short gut syndrome, on TPN.
 ALTERATION IN NUTRITION: TPN
 CANCER (MALIGNANT NEOPLASM), GASTRIC s/p resection.  Wound vac in
   place, no discharge. Surgery following.
 ELECTROLYTES: Potassium low in setting of aggressive diuresis.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-21**] 05:44 PM 83.[**Telephone/Fax (5) 6137**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Arterial Line - [**2139-10-19**] 04:31 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes

2139-10-23 09:03:00 Physician Attending Progress Note
Chief Complaint: hypotension, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2139-10-22**] 04:41 PM
 STOOL CULTURE - At [**2139-10-22**] 11:44 PM
   Diuresed, ~2 L negative overnight
   K and Mg repleted
   Continues extubated, no respiratory complaints
   Notes pain adequately controlled
   History obtained from Patient
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-23**] 04:11 AM
   Vancomycin - [**2139-10-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-10-22**] 12:00 PM
   Lorazepam (Ativan) - [**2139-10-22**] 11:35 PM
   Morphine Sulfate - [**2139-10-23**] 04:10 AM
   Enoxaparin (Lovenox) - [**2139-10-23**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth, albeti better with popsicles
   Nutritional Support: NPO
   Respiratory: Cough, minimal white phlegm
   Gastrointestinal: Abdominal pain, s/p gastric tumor resection
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-10-23**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 96 (80 - 99) bpm
   BP: 126/65(103) {101/48(62) - 149/97(120)} mmHg
   RR: 14 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  3,429 mL
                                                                  1,508 mL
   PO:
                                                                    360 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    989 mL
                                                                    418 mL
   Blood products:
                                                                    192 mL
   Total out:
                                                                  5,699 mL
                                                                  1,775 mL
   Urine:
                                                                  4,101 mL
                                                                    635 mL
   NG:
   Stool:
                                                                  1,100 mL
                                                                    550 mL
   Drains:
                                                                    498 mL
                                                                    590 mL
   Balance:
                                                                 -2,270 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), BLE amputee
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   dependently)
   Abdominal: Soft, Non-tender
   Extremities: BLE amputee
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): fully oriented, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   62 K/uL
   102 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   21 mg/dL
   106 mEq/L
   141 mEq/L
   29.1 %
   8.2 K/uL
        [image002.jpg]
                            [**2139-10-20**]  02:19 PM
                            [**2139-10-20**]  04:40 PM
                            [**2139-10-21**]  05:56 AM
                            [**2139-10-21**]  06:37 AM
                            [**2139-10-21**]  03:54 PM
                            [**2139-10-21**]  06:14 PM
                            [**2139-10-22**]  12:26 AM
                            [**2139-10-22**]  05:40 AM
                            [**2139-10-22**]  03:10 PM
                            [**2139-10-23**]  06:00 AM
   WBC
   10.7
   10.0
   9.7
   8.9
   10.4
   8.2
   Hct
   24.6
   30.2
   28.4
   29.1
   29.7
   29.1
   Plt
   56
   52
   43
   48
   48
   57
   62
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   23
   22
   25
   Glucose
   125
   141
   81
   121
   102
   Other labs: PT / PTT / INR:16.0/73.4/1.4, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:[**9-6**], Alk Phos / T Bili:121/1.6,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:2.7 g/dL, LDH:345 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):  Resolved
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): continues extubated, no
   complaints.  Continued diuresis, negative 2 L overnight.  Stable on 2L
   NC.
 IMPAIRED SKIN INTEGRITY:  Wound vac in place, surgery planning to
   change today, will require sedation so patient will stay in ICU for
   procedure.  If stable from a respiratory standpoint, alert and able to
   protect airway will anticipate transfer to floor later today.
 CHRONIC PAIN: Adequately controlled with current regimen.
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK): Resolved
 CROHN'S DISEASE (REGIONAL ENTERITIS) with short gut syndrome. Having
   diarrhea. Sending stool for culture, C.Diff, first negative.
 ALTERATION IN NUTRITION:  TPN continues.
 CANCER (MALIGNANT NEOPLASM), GASTRIC s/p resection. Small bile leak
   noted by surgery, concerned about anastamosis site.  Minimal po intake
   - getting popsicles/ice chips as per Dr. [**Last Name (STitle) 4043**].
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-22**] 07:00 PM 82 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2139-10-24 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had Vac changed, with subsequent small bowel perforation noted
   - Pt initially called-out, then called back-in
   - Surgery placed bag of enterotomy wound for drainage
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2139-10-23**] 07:32 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-24**] 04:31 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-10-23**] 12:05 PM
   Lorazepam (Ativan) - [**2139-10-24**] 12:43 AM
   Enoxaparin (Lovenox) - [**2139-10-24**] 04:31 AM
   Morphine Sulfate - [**2139-10-24**] 04:31 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: No fevers, chills. Pain controlled. No SOB, CP. No
   edema.
   Flowsheet Data as of  [**2139-10-24**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 86 (84 - 96) bpm
   BP: 101/61(71) {101/56(71) - 176/117(124)} mmHg
   RR: 12 (11 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  3,877 mL
                                                                    709 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  1,069 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  4,862 mL
                                                                    711 mL
   Urine:
                                                                  2,622 mL
                                                                    566 mL
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
                                                                    990 mL
                                                                    145 mL
   Balance:
                                                                   -985 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Gen: NAD
   CV: RRR, no M/R/G
   Pulm: CTAB
   Abd: Large midline wound vac intact without erythema
   Extr: Bilateral LE amputations, UE with 1+ edema much improved.
   Labs / Radiology
   75 K/uL
   10.2 g/dL
   95 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   21 mg/dL
   101 mEq/L
   136 mEq/L
   29.1 %
   8.2 K/uL
        [image002.jpg]
                            [**2139-10-21**]  05:56 AM
                            [**2139-10-21**]  06:37 AM
                            [**2139-10-21**]  03:54 PM
                            [**2139-10-21**]  06:14 PM
                            [**2139-10-22**]  12:26 AM
                            [**2139-10-22**]  05:40 AM
                            [**2139-10-22**]  03:10 PM
                            [**2139-10-23**]  06:00 AM
                            [**2139-10-23**]  11:45 PM
                             [**2139-10-24**]  03:33 AM
   WBC
   10.0
   9.7
   8.9
   10.4
   8.2
   8.2
   Hct
   30.2
   28.4
   29.1
   29.7
   29.1
   29.1
   Plt
   52
   43
   48
   48
   57
   62
   75
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   TCO2
   22
   25
   Glucose
   125
   141
   81
   121
   102
   92
   95
   Other labs: PT / PTT / INR:16.0/73.4/1.4, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:[**9-6**], Alk Phos / T Bili:121/1.6,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:2.7 g/dL, LDH:345 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:4.2
   mg/dL
   55yoM with Crohn's c/b multiple abdominal surgeries, recently dx with
   mucinous adenoca s/p tumor and small bowel resection with resolved
   hypoxemia and hypotension, now with perforated exposed small bowel.
   # S/p tumor Rescetion: Small enterotomy from the vac noted overnight
   with subsequent drainage. Surgery placed drainage bag this AM.
   - Surgery to perform drainage bag changes and ventral wall wound care.
   - Will monitor in ICU until
   - f/u surgery recs.
   # Acute Hypoxemic Resp Failure: Pt extubated >24hrs. Was net negative
   -2.3L yesterday.  Sputum cx with GNR rare growth.  OP flora.
   - monitor O2 sats
   - f/u blood culture
   # Hypotension: Stable overnight.  Wil cont to monitor closely while
   diuresing. Now diuresing well.  Cdiff negative x2.
   - Keeping MAPs > 60
   - Cont  Pip-Tazo and Vanco, will discuss with surgery duration
 likely
   can d/c as MSSA was only positive cx
   - f/u cultures
   - F/u any further surgical recs
   # Anemia:  Hct 28 last PM, AM labs pending.
   - Serial Hcts
   # Thrombocytopenia: HIT negative.  AM labs pending
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin ~2.9.
   - Cont Hydrocortisone 75mg IV q 24
   # Skin Intergity: Wound Vac in place. Surgery following. No procedure
   today. Wound Team also following. Mild stage I decub per wound team.
   -          f/u surgical recs
   -          f/u wound team
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-23**] 07:21 PM 82 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT:  Lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-10-25 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Reordered TPN
   -INR ordered for am
   -Ordered 20 IV lasix to help diuresis
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2139-10-24**] 07:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2139-10-24**] 04:42 PM
   Morphine Sulfate - [**2139-10-24**] 07:45 PM
   Furosemide (Lasix) - [**2139-10-24**] 10:00 PM
   Lorazepam (Ativan) - [**2139-10-25**] 01:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-25**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 98 (79 - 98) bpm
   BP: 123/66(86) {107/57(68) - 147/79(93)} mmHg
   RR: 27 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  3,183 mL
                                                                    724 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  1,065 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  3,951 mL
                                                                  2,190 mL
   Urine:
                                                                  2,926 mL
                                                                  1,380 mL
   NG:
   Stool:
                                                                    110 mL
   Drains:
                                                                    915 mL
                                                                    810 mL
   Balance:
                                                                   -768 mL
                                                                 -1,466 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   GEN: NAD, Aox3
   CV: rrr no m/r/g
   Pulm: CTAB
   Abd: Large anterior dressing with serous/brownish drainage, no erythema
   or drainage outside of dressing.
   Extr: Bilat LE amputee, UE without edema.
   Labs / Radiology
   102 K/uL
   10.3 g/dL
   110 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   21 mg/dL
   100 mEq/L
   137 mEq/L
   29.8 %
   8.1 K/uL
        [image002.jpg]
                            [**2139-10-21**]  06:37 AM
                            [**2139-10-21**]  03:54 PM
                            [**2139-10-21**]  06:14 PM
                            [**2139-10-22**]  12:26 AM
                            [**2139-10-22**]  05:40 AM
                            [**2139-10-22**]  03:10 PM
                            [**2139-10-23**]  06:00 AM
                            [**2139-10-23**]  11:45 PM
                             [**2139-10-24**]  03:33 AM
                             [**2139-10-25**]  04:40 AM
   WBC
   9.7
   8.9
   10.4
   8.2
   8.2
   8.1
   Hct
   28.4
   29.1
   29.7
   29.1
   29.1
   29.8
   Plt
   43
   48
   48
   57
   62
   75
   102
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   0.9
   TCO2
   22
   25
   Glucose
   141
   81
   121
   102
   92
   95
   110
   Other labs: PT / PTT / INR:16.8/70.9/1.5, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:17/23, Alk Phos / T Bili:192/1.1,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.0 g/dL, LDH:312 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 CHRONIC PAIN
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERATION IN NUTRITION
 CANCER (MALIGNANT NEOPLASM), SMALL BOWEL
   55yoM with Crohn's c/b multiple abdominal surgeries, recently dx with
   mucinous adenoca s/p tumor and small bowel resection with resolved
   hypoxemia and hypotension, now with perforated exposed small bowel.
   # S/p tumor Rescetion: Small enterotomy from the vac noted during vac
   change with subsequent drainage. Surgery placed drainage bag this
   [**2139-10-24**].
   -  Surgery to perform drainage bag changes and ventral wall wound care.
   -  Will monitor in ICU until Mondary until transfer to the [**Hospital Ward Name **]
   for surgical drainage.
   -  f/u surgery recs.
   - Start Vitamin A for wound healing
   - continue to diurese with PRN lasix
   # Anemia:  Hct 29.1 and stable.
   - Serial Hcts
   # Thrombocytopenia: HIT negative.  Platlets up today to 102.
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin ~2.9.
   - Cont TPN
   .
   # Juvenille RA? On home dose Prednisone 15mg PO daily
   - Cont Hydrocortisone 75mg IV q 24
   # Skin Intergity: Stage II Decub.
   - f/u wound team
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-24**] 06:22 PM 82 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2139-10-26 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Abd wound with large drainage (>1L) per day, surgery wrote to replace
   [**12-24**] to 1 cc of drainage
   - HIDA Scan ordered to determine etiology of leak (? from biliary-jeju
   leak vs. leak from bowel perf), with potential PTC afterwards based on
   findings
   - Changed to Zosyn to Meropenum as Sputum cx grew Klebsiella resistant
   to Zosyn.
   - Added Flagyl as Bile grew likely Clostridium Perfingens
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-25**] 04:05 PM
   Vancomycin - [**2139-10-25**] 08:00 PM
   Meropenem - [**2139-10-25**] 10:17 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-10-25**] 09:17 AM
   Enoxaparin (Lovenox) - [**2139-10-25**] 08:00 PM
   Morphine Sulfate - [**2139-10-26**] 12:25 AM
   Lorazepam (Ativan) - [**2139-10-26**] 03:07 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: No fevers chills. Did not sleep well. Improved pain
   on slightly higher dose of morphine. Back pain persists.
   Flowsheet Data as of  [**2139-10-26**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.8
C (96.4
   HR: 90 (77 - 98) bpm
   BP: 100/52(64) {100/52(64) - 132/87(90)} mmHg
   RR: 15 (9 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  3,143 mL
                                                                  1,104 mL
   PO:
             TF:
   IVF:
                                                                  1,163 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                  5,070 mL
                                                                  1,830 mL
   Urine:
                                                                  3,250 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
                                                                  1,820 mL
                                                                  1,210 mL
   Balance:
                                                                 -1,927 mL
                                                                   -726 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GEN: NAD, AOx3
   CV: S1S2no m/r/g
   Pulm: CTAB
   Abd: Large ventral ostomoy bag with serous/brownish drainage, no
   erythema or drainage outside of dressing.
   Extr: Bilat LE amputee, UE without edema
   Labs / Radiology
   134 K/uL
   10.5 g/dL
   101 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.8 mEq/L
   29 mg/dL
   104 mEq/L
   139 mEq/L
   29.6 %
   7.5 K/uL
        [image002.jpg]
                            [**2139-10-21**]  06:14 PM
                            [**2139-10-22**]  12:26 AM
                            [**2139-10-22**]  05:40 AM
                            [**2139-10-22**]  03:10 PM
                            [**2139-10-23**]  06:00 AM
                            [**2139-10-23**]  11:45 PM
                             [**2139-10-24**]  03:33 AM
                             [**2139-10-25**]  04:40 AM
                             [**2139-10-25**]  02:13 PM
                             [**2139-10-26**]  04:55 AM
   WBC
   9.7
   8.9
   10.4
   8.2
   8.2
   8.1
   7.5
   Hct
   28.4
   29.1
   29.7
   29.1
   29.1
   29.8
   29.6
   Plt
   43
   48
   48
   57
   62
   75
   102
   134
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   0.9
   1.0
   0.9
   Glucose
   141
   81
   121
   102
   92
   95
   110
   136
   101
   Other labs: PT / PTT / INR:17.4/61.8/1.5, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:17/23, Alk Phos / T Bili:192/1.1,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.0 g/dL, LDH:312 IU/L, Ca++:9.0 mg/dL, Mg++:1.0 mg/dL, PO4:4.4
   mg/dL
[**2139-10-21**] 12:39 am SPUTUM      Source: Endotracheal
KLEBSIELLA PNEUMONIAE
                             |
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFTAZIDIME-----------     2 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO----- =>128 R
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
   JP Drain [**10-19**]:
   ANAEROBIC CULTURE (Preliminary):
      Mixed bacterial flora-culture screened for B. fragilis, C.
      perfringens, and C. septicum.
         PRESUMPTIVE CLOSTRIDIUM PERFRINGENS.    MODERATE GROWTH.
   CXR [**10-25**]: IMPRESSION: AP chest compared to [**10-19**] and 28:
   Previous moderate bilateral pleural effusions have decreased. Continued
   opacification at the base of the left lung may represent lobar
   collapse.
   Widening of the mediastinum at the level of the vascular pedicle
   attributable
   to fat deposition and mild lymph node enlargement. Heart size normal.
   Right
   supraclavicular line ends at the superior cavoatrial junction.
   Assessment and Plan
   55yoM with Crohn's c/b multiple abdominal surgeries, recently dx with
   mucinous adenoca s/p tumor and small bowel resection, now with
   perforated exposed small bowel and copious drainage
   # S/p tumor Resection: Copious drainage from wound.
   - HIDA scan today
   - Potential PTC based on HIDA
   - Surgery to performing drainage bag changes and ventral wall wound
   care.
   - f/u surgery recs.
   - Cont Vitamin A for wound healing
   - continue to diurese with PRN lasix
   - Flagyl for suspected Clostridium Perfingens
   - Cont Meropenem for Sputum coverage, although pt remains afebrile
   without leukocytosis or increased sputum production.
   # Anemia:  Hct 29.6 and stable.
   - Serial Hcts
   # Thrombocytopenia: HIT negative.  Platlets up today to 134.
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin ~2.9.
   - Cont TPN
   .
   # Juvenille RA? On home dose Prednisone 15mg PO daily
   - Cont Hydrocortisone 75mg IV q 24, RISS with FSQID
   # Skin Intergity: Stage II Decub, improving per nursing.
   - f/u wound team
   # Anxiety: Pt did not sleep well overnight.
   - Cont Lorazepam PRN
   - Consider Social Work consult for coping
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-25**] 06:42 PM 83.[**Telephone/Fax (5) 6062**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: (LMWH Heparin)
   Stress ulcer: Carafate
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Last Name (LF) 44**], [**First Name3 (LF) 178**] discuss with surgery Re : dispo

2139-10-26 11:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues hemodynamically stable
   Requiring a bit more morphine given chronic back pain
   Diuresed
   Denies cough, SOB
                   History obtained from Patient
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-25**] 04:05 PM
   Meropenem - [**2139-10-25**] 10:17 PM
   Vancomycin - [**2139-10-26**] 08:30 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2139-10-25**] 08:00 PM
   Morphine Sulfate - [**2139-10-26**] 05:00 AM
   Lorazepam (Ativan) - [**2139-10-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-10-26**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 90 (77 - 98) bpm
   BP: 110/63(73) {100/52(64) - 131/87(90)} mmHg
   RR: 14 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  3,143 mL
                                                                  1,872 mL
   PO:
             TF:
   IVF:
                                                                  1,163 mL
                                                                    907 mL
   Blood products:
   Total out:
                                                                  5,070 mL
                                                                  3,120 mL
   Urine:
                                                                  3,250 mL
                                                                  1,740 mL
   NG:
   Stool:
   Drains:
                                                                  1,820 mL
                                                                  1,380 mL
   Balance:
                                                                 -1,927 mL
                                                                 -1,248 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), BLE amputee
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft
   Extremities: BLE amputee
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   134 K/uL
   101 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.8 mEq/L
   29 mg/dL
   104 mEq/L
   139 mEq/L
   29.6 %
   7.5 K/uL
        [image002.jpg]
                            [**2139-10-21**]  06:14 PM
                            [**2139-10-22**]  12:26 AM
                            [**2139-10-22**]  05:40 AM
                            [**2139-10-22**]  03:10 PM
                            [**2139-10-23**]  06:00 AM
                            [**2139-10-23**]  11:45 PM
                             [**2139-10-24**]  03:33 AM
                             [**2139-10-25**]  04:40 AM
                             [**2139-10-25**]  02:13 PM
                             [**2139-10-26**]  04:55 AM
   WBC
   9.7
   8.9
   10.4
   8.2
   8.2
   8.1
   7.5
   Hct
   28.4
   29.1
   29.7
   29.1
   29.1
   29.8
   29.6
   Plt
   43
   48
   48
   57
   62
   75
   102
   134
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   0.9
   1.0
   0.9
   Glucose
   141
   81
   121
   102
   92
   95
   110
   136
   101
   Other labs: PT / PTT / INR:17.4/61.8/1.5, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:17/23, Alk Phos / T Bili:192/1.1,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.0 g/dL, LDH:312 IU/L, Ca++:9.0 mg/dL, Mg++:1.0 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Now on merepenim for
   resistent Klebsiella. No respiratory complaints.
 IMPAIRED SKIN INTEGRITY: Wond care and dressing changes per the
   surgery service.
 CHRONIC PAIN:  Patient notes this is well controlled this morning.
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK):  Resolved.
 CROHN'S DISEASE (REGIONAL ENTERITIS) with short gut syndrome on TPN.
 ALTERATION IN NUTRITION:  On TPN, ice chips.
 HYPOMAGNESEMIA:  Repleted, followup electrolytes this afternoon.
 CANCER (MALIGNANT NEOPLASM), SMALL BOWEL: Postoperatively, now with
   bowel tear, bile leak.  Plan for HIDA scan today as per surgery.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-25**] 06:42 PM 83.[**Telephone/Fax (5) 6062**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: Sucralafate
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-10-27 07:44:00 Physician Resident Progress Note
Chief Complaint: hypoxia, unresponsiveness
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2139-10-26**] 02:42 PM
   Hida scan- gall bladder
 ULTRASOUND - At [**2139-10-26**] 07:00 PM
   - Underwent HIDA
   - Underwent RUQ with dopplers
   - Pt kept NPO
   - Lovenox restarted
   - Discussed with I.D. antibiotic coverage
   History obtained from Patient
   Allergies:
   History obtained from PatientPlasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-25**] 04:05 PM
   Meropenem - [**2139-10-25**] 10:17 PM
   Metronidazole - [**2139-10-27**] 02:05 AM
   Vancomycin - [**2139-10-27**] 07:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-10-27**] 04:01 AM
   Morphine Sulfate - [**2139-10-27**] 04:01 AM
   Other medications:
   Changes to medical and family history: NONE
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Musculoskeletal: Joint pain, back and carpal tunnel pain
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2139-10-27**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 100 (86 - 104) bpm
   BP: 124/67(81) {96/54(65) - 135/85(94)} mmHg
   RR: 19 (11 - 19) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  3,640 mL
                                                                  1,378 mL
   PO:
             TF:
   IVF:
                                                                  1,597 mL
                                                                    700 mL
   Blood products:
   Total out:
                                                                  5,595 mL
                                                                    670 mL
   Urine:
                                                                  2,695 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
                                                                  2,900 mL
                                                                    350 mL
   Balance:
                                                                 -1,955 mL
                                                                    708 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///27/
   Physical Examination PATIENT REFUSED PHYSICAL EXAM TODAY
   Labs / Radiology
   134 K/uL
   10.5 g/dL
   102 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.5 mEq/L
   31 mg/dL
   104 mEq/L
   139 mEq/L
   29.6 %
   7.5 K/uL
        [image002.jpg]
                            [**2139-10-22**]  12:26 AM
                            [**2139-10-22**]  05:40 AM
                            [**2139-10-22**]  03:10 PM
                            [**2139-10-23**]  06:00 AM
                            [**2139-10-23**]  11:45 PM
                             [**2139-10-24**]  03:33 AM
                             [**2139-10-25**]  04:40 AM
                             [**2139-10-25**]  02:13 PM
                             [**2139-10-26**]  04:55 AM
                             [**2139-10-26**]  05:03 PM
   WBC
   8.9
   10.4
   8.2
   8.2
   8.1
   7.5
   Hct
   29.1
   29.7
   29.1
   29.1
   29.8
   29.6
   Plt
   48
   48
   57
   62
   75
   102
   134
   Cr
   0.8
   0.8
   0.7
   0.7
   0.8
   0.9
   1.0
   0.9
   0.8
   Glucose
   81
   121
   102
   92
   95
   110
   136
   101
   102
   Other labs: PT / PTT / INR:17.4/61.8/1.5, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:17/23, Alk Phos / T Bili:192/1.1,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.0 g/dL, LDH:312 IU/L, Ca++:8.9 mg/dL, Mg++:3.2 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 CHRONIC PAIN
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERATION IN NUTRITION
 CANCER (MALIGNANT NEOPLASM), SMALL BOWEL
   55yoM with Crohn's c/b multiple abdominal surgeries, recently dx with
   mucinous adenoca s/p tumor and small bowel resection, now with
   perforated exposed small bowel and copious drainage
   # S/p tumor Resection: Copious green, not clear drainage from wound.
   - HIDA scan [**10-26**]- Bile leak, with radiolabelled bile exiting abdomen
   through right upper quadrant drain.
   - Surgery performing drainage bag changes and ventral wall wound care.
   - f/u surgery recs.
   - continue to diurese with PRN lasix
   - Flagyl for suspected Clostridium Perfingens
   - Will discuss need for meropenem with surgery today- not currently ID
   approved
   # Anemia:  Hct 29.6 and stable.
   - Serial Hcts
   # Thrombocytopenia: HIT negative.  Platlets up yesterday to 134.
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin ~2.9.
   - Cont TPN
   .
   # Juvenille RA? On home dose Prednisone 15mg PO daily
   - Cont Hydrocortisone 75mg IV q 24, RISS with FSQID
   # Skin Intergity: Stage II Decub, improving per nursing.
   - f/u wound team
   # Anxiety: Pt did not sleeping well at night.
   - Cont Lorazepam PRN
   - Consider Social Work consult for coping
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-26**] 06:34 PM 90 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2139-10-27 12:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2139-10-26**] 02:42 PM
   Hida scan- gall bladder: documented bile leak
 ULTRASOUND - At [**2139-10-26**] 07:00 PM: patent hepatic arteries and
   portal vein
   Drain inadvertantly pulled; on floor at bedside
                   History obtained from Patient
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-25**] 04:05 PM
   Meropenem - [**2139-10-25**] 10:17 PM
   Metronidazole - [**2139-10-27**] 02:05 AM
   Vancomycin - [**2139-10-27**] 07:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-10-27**] 07:30 AM
   Morphine Sulfate - [**2139-10-27**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: NPO
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-10-27**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 96 (86 - 104) bpm
   BP: 123/68(81) {96/54(65) - 135/85(94)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  3,640 mL
                                                                  1,982 mL
   PO:
             90 mL
   TF:
   IVF:
                                                                  1,597 mL
                                                                    845 mL
   Blood products:
   Total out:
                                                                  5,595 mL
                                                                  1,535 mL
   Urine:
                                                                  2,695 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
                                                                  2,900 mL
                                                                    505 mL
   Balance:
                                                                 -1,955 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), BLE amputee
   Respiratory / Chest: (Breath Sounds: Crackles : basilar)
   Abdominal: Soft, Non-tender, dressing in place
   Extremities: BLE amputee
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   149 K/uL
   132 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.7 mEq/L
   35 mg/dL
   106 mEq/L
   140 mEq/L
   31.2 %
   6.9 K/uL
        [image002.jpg]
                            [**2139-10-22**]  05:40 AM
                            [**2139-10-22**]  03:10 PM
                            [**2139-10-23**]  06:00 AM
                            [**2139-10-23**]  11:45 PM
                             [**2139-10-24**]  03:33 AM
                             [**2139-10-25**]  04:40 AM
                             [**2139-10-25**]  02:13 PM
                             [**2139-10-26**]  04:55 AM
                             [**2139-10-26**]  05:03 PM
                             [**2139-10-27**]  07:45 AM
   WBC
   8.9
   10.4
   8.2
   8.2
   8.1
   7.5
   6.9
   Hct
   29.1
   29.7
   29.1
   29.1
   29.8
   29.6
   31.2
   Plt
   48
   57
   62
   75
   102
   134
   149
   Cr
   0.8
   0.8
   0.7
   0.7
   0.8
   0.9
   1.0
   0.9
   0.8
   0.9
   Glucose
   81
   121
   102
   92
   95
   110
   136
   101
   102
   132
   Other labs: PT / PTT / INR:17.6/80.5/1.6, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:21/23, Alk Phos / T Bili:262/0.8,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.2 g/dL, LDH:301 IU/L, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Stable from a respiratory
   standpoint.
 CROHN'S DISEASE (REGIONAL ENTERITIS) with short gut syndrome.
 ALTERATION IN NUTRITION:  Continues TPN.
 CANCER (MALIGNANT NEOPLASM), GASTRIC: Wound appears to be healing
   well, pink granulation tissue under dressing.  Drain out this morning.
   Have contact[**Name (NI) **] surgery to let them know.  Need to  readdrress
   antibiotic regimen with surgery.  Had received two doses of merepenim
   albeit ID had not approved continutation.  He has no respiratory
   symptoms, has not had a clinical course suggestive of pneumonia so
   agree that Klebsiella likely not a pathogen.  Favor continuing zosyn to
   cover the abdomen.  Will discuss with Dr. [**Last Name (STitle) 4043**].
   Per nursing and patient, surgery in this morning and indicated the
   patient could take 30 cc clear liquids per hour; will confirm with
   surgery.  Contine to replace output, now 1:1 as per surgery.
ANEMIA: Hct stable.  On carafate
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-26**] 06:34 PM 90 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2139-10-28 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PTC planned for am, pt NPO after midnight (currently getting 30cc
   liquids/ hr)
   -Restarted Zosyn, stopped meropenem
   -SW consulted
   - TPN reordered
   - CT abd and pelvis redone- progession of splenic infarcts, want to
   re-image for possible fluid collection in 1 day (CT abd ordered for
   [**10-28**]), decr pleural effusions.
   - ophtho consulted-think L eye has subconjunctival hemorrhage. Reassure
   pt. No tx or f/u needed at this time
   -Wound care came and placed new bag over abd wound- will stay for up to
   10 days at a time. They will follow with us
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2139-10-25**] 10:17 PM
   Vancomycin - [**2139-10-27**] 08:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-27**] 10:25 PM
   Metronidazole - [**2139-10-28**] 01:37 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2139-10-27**] 08:13 PM
   Morphine Sulfate - [**2139-10-28**] 01:37 AM
   Lorazepam (Ativan) - [**2139-10-28**] 05:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-28**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 104 (85 - 104) bpm
   BP: 149/73(92) {104/60(49) - 149/79(94)} mmHg
   RR: 18 (12 - 19) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  5,280 mL
                                                                  1,008 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                  2,015 mL
                                                                    425 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                  4,390 mL
                                                                  1,240 mL
   Urine:
                                                                  2,355 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
                                                                  2,035 mL
                                                                    610 mL
   Balance:
                                                                    890 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   9.8 g/dL
   132 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.7 mEq/L
   35 mg/dL
   106 mEq/L
   140 mEq/L
   27.9 %
   5.9 K/uL
        [image002.jpg]
                            [**2139-10-22**]  03:10 PM
                            [**2139-10-23**]  06:00 AM
                            [**2139-10-23**]  11:45 PM
                             [**2139-10-24**]  03:33 AM
                             [**2139-10-25**]  04:40 AM
                             [**2139-10-25**]  02:13 PM
                             [**2139-10-26**]  04:55 AM
                             [**2139-10-26**]  05:03 PM
                             [**2139-10-27**]  07:45 AM
                             [**2139-10-28**]  05:28 AM
   WBC
   10.4
   8.2
   8.2
   8.1
   7.5
   6.9
   5.9
   Hct
   29.7
   29.1
   29.1
   29.8
   29.6
   31.2
   27.9
   Plt
   57
   62
   75
   102
   134
   149
   151
   Cr
   0.8
   0.7
   0.7
   0.8
   0.9
   1.0
   0.9
   0.8
   0.9
   Glucose
   121
   102
   92
   95
   110
   136
   101
   102
   132
   Other labs: PT / PTT / INR:18.6/89.6/1.7, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:21/23, Alk Phos / T Bili:262/0.8,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.2 g/dL, LDH:301 IU/L, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 EDEMA, PERIPHERAL
 CHRONIC PAIN
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERATION IN NUTRITION
 CANCER (MALIGNANT NEOPLASM), SMALL BOWEL
   55yoM with Crohn's c/b multiple abdominal surgeries, recently dx with
   mucinous adenoca s/p tumor and small bowel resection, now with
   perforated exposed small bowel and copious drainage
   # S/p tumor Resection: Copious green, not clear drainage from wound.
   - HIDA scan [**10-26**]- Bile leak, with radiolabelled bile exiting abdomen
   through right upper quadrant drain.
   - Surgery performing drainage bag changes and ventral wall wound care.
   - f/u surgery recs.
   - continue to diurese with PRN lasix
   - Flagyl for suspected Clostridium Perfingens
   - Will discuss need for meropenem with surgery today- not currently ID
   approved
   # Anemia:  Hct 29.6 and stable.
   - Serial Hcts
   # Thrombocytopenia: HIT negative.  Platlets up yesterday to 134.
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin ~2.9.
   - Cont TPN
   .
   # Juvenille RA? On home dose Prednisone 15mg PO daily
   - Cont Hydrocortisone 75mg IV q 24, RISS with FSQID
   # Skin Intergity: Stage II Decub, improving per nursing.
   - f/u wound team
   # Anxiety: Pt did not sleeping well at night.
   - Cont Lorazepam PRN
   - Consider Social Work consult for coping
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-27**] 05:47 PM 90 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2139-10-28 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT abdomen/pelvis:  progression of splenic infarcts, no clear fluid
   collection intra-abdominally.
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2139-10-25**] 10:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-27**] 10:25 PM
   Vancomycin - [**2139-10-28**] 08:00 AM
   Piperacillin - [**2139-10-28**] 08:30 AM
   Metronidazole - [**2139-10-28**] 10:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2139-10-27**] 08:13 PM
   Lorazepam (Ativan) - [**2139-10-28**] 05:41 AM
   Morphine Sulfate - [**2139-10-28**] 06:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-10-28**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 100 (85 - 104) bpm
   BP: 126/73(86) {104/60(49) - 149/97(106)} mmHg
   RR: 15 (12 - 19) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  5,280 mL
                                                                  3,552 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                  2,015 mL
                                                                  2,600 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                  4,390 mL
                                                                  2,120 mL
   Urine:
                                                                  2,355 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
                                                                  2,035 mL
                                                                    710 mL
   Balance:
                                                                    890 mL
                                                                  1,432 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   136 K/uL
   96 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.4 mEq/L
   34 mg/dL
   107 mEq/L
   142 mEq/L
   27.1 %
   5.9 K/uL
        [image002.jpg]
                            [**2139-10-23**]  11:45 PM
                             [**2139-10-24**]  03:33 AM
                             [**2139-10-25**]  04:40 AM
                             [**2139-10-25**]  02:13 PM
                             [**2139-10-26**]  04:55 AM
                             [**2139-10-26**]  05:03 PM
                             [**2139-10-27**]  07:45 AM
                             [**2139-10-28**]  05:28 AM
                             [**2139-10-28**]  08:16 AM
                             [**2139-10-28**]  09:05 AM
   WBC
   8.2
   8.1
   7.5
   6.9
   5.9
   Hct
   29.1
   29.8
   29.6
   31.2
   27.9
   27.1
   Plt
   75
   102
   134
   149
   151
   136
   Cr
   0.7
   0.8
   0.9
   1.0
   0.9
   0.8
   0.9
   0.9
   Glucose
   92
   95
   110
   136
   101
   102
   132
   96
   Other labs: PT / PTT / INR:18.0/78.1/1.6, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:23/20, Alk Phos / T Bili:224/0.8,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Stable from a respiratory
   standpoint without new respiratory complaints. Are not treating the
   Klebsiella in sputum as we feel this is a contaminant.
 IMPAIRED SKIN INTEGRITY: Wound care and dressing changes per surgical
   service.
 CHRONIC PAIN: Well controlled on current meds.
 CROHN'S DISEASE (REGIONAL ENTERITIS) with short gut syndrome on TPN.
   Tapering hydrocortisone.
 ALTERATION IN NUTRITION: TPN
 CANCER (MALIGNANT NEOPLASM), GASTRIC: Postoperative course c/b bile
   lead and bowel tear.  Drain still out.  Back to CT this morning to
   reassess for intra-abdominal fluid collection for possible drainage and
   then plan for PTC (lovenox held this am).  Replacing fluid losses 1:1
   per surgical service recommendations.  Continue to cover empirically
   for abdominal infecdtious soure on vanco/zosyn/flagyl.  WBC normal.
   AFter procedures today will readdress with surgery whether stopping
   vanco/zosyn is reasonable given no clear source.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-27**] 05:47 PM 90 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2139-10-29 06:18:00 Physician Resident Progress Note
24 Hour Events:
   - CT abd/pelv without fluid collection, gastrografin emptied out of abd
   wound (pending official read)
   - Patient went for PTC yesterday, but no leak at the biliary jejunal
   anastamosis was found so no drain was placed.
   - d/c'd steriods as this likely impairs wound healing.
   - Dr. [**Last Name (STitle) **] wants multidisiplenary family meeting (next week?)
   - No decision made on abx other than to keep them on based on
   attendings recs.
   - Pt placed on clears last PM, took in 1500cc, (1600 subsequently out
   through drain), thus replaced (at 1:1.5 ratio), 2400 cc NS with 50 of
   KCl.
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2139-10-28**] 08:30 AM
   Vancomycin - [**2139-10-28**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-29**] 12:09 AM
   Metronidazole - [**2139-10-29**] 01:35 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-10-29**] 04:18 AM
   Morphine Sulfate - [**2139-10-29**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-29**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 87 (85 - 100) bpm
   BP: 128/71(82) {95/35(38) - 139/97(106)} mmHg
   RR: 20 (13 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  9,912 mL
                                                                  2,492 mL
   PO:
                                                                  2,218 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  3,710 mL
                                                                  1,446 mL
   Blood products:
                                                                    917 mL
   Total out:
                                                                  3,875 mL
                                                                  2,295 mL
   Urine:
                                                                  2,445 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
                                                                  1,430 mL
                                                                  1,220 mL
   Balance:
                                                                  6,037 mL
                                                                    197 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   135 K/uL
   9.8 g/dL
   102 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.7 mEq/L
   27 mg/dL
   105 mEq/L
   138 mEq/L
   24.6 %
   4.7 K/uL
        [image002.jpg] ALT 20 AST 18 AP 157 TB 0.7
   PT 17 PTT 67.2 INR 1.5   Vanc 22.4
                             [**2139-10-24**]  03:33 AM
                             [**2139-10-25**]  04:40 AM
                             [**2139-10-25**]  02:13 PM
                             [**2139-10-26**]  04:55 AM
                             [**2139-10-26**]  05:03 PM
                             [**2139-10-27**]  07:45 AM
                             [**2139-10-28**]  05:28 AM
                             [**2139-10-28**]  08:16 AM
                             [**2139-10-28**]  09:05 AM
                             [**2139-10-28**]  05:46 PM
   WBC
   8.2
   8.1
   7.5
   6.9
   5.9
   Hct
   29.1
   29.8
   29.6
   31.2
   27.9
   27.1
   25.7
   Plt
   75
   102
   134
   149
   151
   136
   Cr
   0.8
   0.9
   1.0
   0.9
   0.8
   0.9
   0.9
   Glucose
   95
   110
   136
   101
   102
   132
   96
   Other labs: PT / PTT / INR:16.9/69.3/1.5, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:23/20, Alk Phos / T Bili:224/0.8,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   55yoM with Crohn's, Antiphospholipid Ab c/b multiple abdominal
   surgeries, recently dx with mucinous adenoca s/p tumor and small bowel
   resection, now with perforated exposed small bowel and copious drainage
   # S/p Gastric Tumor Resection: Postoperative course c/b bile leak and
   bowel tear.  not clear drainage from wound Drain remains out.  PTC
   yesterday without bile leak, no drain placed.  Pt advanced to clears
   overnight and took in 1500cc.  Copious green output(1600ccs) overnight,
   Now replacing fluid losses 1.5:1 NS with 10KCl per surgery. Afebrile,
   Hemodynamically stable and WBC WNL.
   - Surgery performing ostomy appliance bag changes and ventral wall
   wound care.
   - f/u surgery recs.
   - PM lytes check
   - Flagyl for suspected Clostridium Perfingens
   - Zosyn for GNR coverage
   - Vanc Level 22.4 today for potential gram positive source.
   - Re-Address Antiobiotic coverage with surgery today
   # Anemia:  Hct 24.6 from 25.7 last night and 271. in AM yesterday in
   setting of 2.4L repletion yesterday. No signs of bleeding.
   - PM Hct check
   # Thrombocytopenia: HIT negative.  Platlets stable.
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin ~2.9.
   - Cont TPN
   .
   # Juvenille RA? On home dose Prednisone 15mg PO daily
   - Cont Hydrocortisone 75mg IV q 24, RISS with FSQID
   # Skin Intergity: Stage II Decub, improving per nursing.
   - f/u wound team
   # Anxiety: Increased Ativan to 1-4mg from 0.5. Improved sleep
   overnight.
   - Cont Lorazepam PRN
   - Social Work consult for coping
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-28**] 05:02 PM 90 mL/hour
   Clears
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: Sucralfate
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**]

2139-10-29 07:57:00 Physician Resident Progress Note
Chief Complaint:
   - CT abd/pelv without fluid collection, gastrografin emptied out of abd
   wound (pending official read)
   - Patient went for PTC yesterday, but no leak at the biliary jejunal
   anastamosis was found so no drain was placed.
   - d/c'd steriods as this likely impairs wound healing.
   - Dr. [**Last Name (STitle) **] wants multidisiplenary family meeting (next week?)
   - No decision made on abx other than to keep them on based on
   attendings recs.
   - Pt placed on clears last PM, took in 1500cc, (1600 subsequently out
   through drain), thus replaced (at 1:1.5 ratio), 2400 cc NS with 50 of
   KCl.
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2139-10-28**] 08:30 AM
   Vancomycin - [**2139-10-28**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-29**] 12:09 AM
   Metronidazole - [**2139-10-29**] 01:35 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-10-29**] 04:18 AM
   Morphine Sulfate - [**2139-10-29**] 04:18 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Tired. Improved thirst since nutrition advanced to
   clears overnight. No fevers, chills. Pain controlled.
   Flowsheet Data as of  [**2139-10-29**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 86 (85 - 100) bpm
   BP: 113/66(78) {95/35(38) - 139/97(106)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  9,912 mL
                                                                  2,997 mL
   PO:
                                                                  2,218 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  3,710 mL
                                                                  1,800 mL
   Blood products:
                                                                    917 mL
   Total out:
                                                                  3,875 mL
                                                                  2,295 mL
   Urine:
                                                                  2,445 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
                                                                  1,430 mL
                                                                  1,220 mL
   Balance:
                                                                  6,037 mL
                                                                    702 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Gen: NAD, Aox3, Lethargic
   HEENT: Dry MM
   CV: RRR no M/R/G
   Pulm: CTAB bilaterally, anteriorly
   Abd: Large ostomy appliance in place, JP drain out
   Extr: Bilateral LE amputations
   Labs / Radiology
   135 K/uL
   8.5 g/dL
   102 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.7 mEq/L
   27 mg/dL
   105 mEq/L
   138 mEq/L
   24.6 %
   4.7 K/uL
        [image002.jpg]
   ALT 20 AST 18 AP 157 TB 0.7
   PT 17 PTT 67.2 INR 1.5   Vanc 22.4
                             [**2139-10-25**]  04:40 AM
                             [**2139-10-25**]  02:13 PM
                             [**2139-10-26**]  04:55 AM
                             [**2139-10-26**]  05:03 PM
                             [**2139-10-27**]  07:45 AM
                             [**2139-10-28**]  05:28 AM
                             [**2139-10-28**]  08:16 AM
                             [**2139-10-28**]  09:05 AM
                             [**2139-10-28**]  05:46 PM
                             [**2139-10-29**]  05:34 AM
   WBC
   8.1
   7.5
   6.9
   5.9
   4.7
   Hct
   29.8
   29.6
   31.2
   27.9
   27.1
   25.7
   24.6
   Plt
   102
   134
   149
   151
   136
   135
   Cr
   0.9
   1.0
   0.9
   0.8
   0.9
   0.9
   0.7
   Glucose
   110
   136
   101
   102
   132
   96
   102
   Other labs: PT / PTT / INR:17.0/67.4/1.5, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:20/18, Alk Phos / T Bili:157/0.7,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.2 g/dL, LDH:230 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   55yoM with Crohn's, Antiphospholipid Ab c/b multiple abdominal
   surgeries, recently dx with mucinous adenoca s/p tumor and small bowel
   resection, now with perforated exposed small bowel and copious drainage
   # S/p Gastric Tumor Resection: Postoperative course c/b bile leak and
   bowel tear.  not clear drainage from wound Drain remains out.  PTC
   yesterday without bile leak, no drain placed.  Pt advanced to clears
   overnight and took in 1500cc.  Copious green output(1600ccs) overnight,
   Now replacing fluid losses 1.5:1 NS with 10KCl per surgery. Afebrile,
   Hemodynamically stable and WBC WNL.
   - Surgery performing ostomy appliance bag changes and ventral wall
   wound care.
   - f/u surgery recs.
   - PM lytes check
   - Flagyl for suspected Clostridium Perfingens
   - Zosyn for GNR coverage
   - Vanc Level 22.4 today for potential gram positive source.
   - Re-Address Antiobiotic coverage with surgery today
   # Anemia:  Hct 24.6 from 25.7 last night and 271. in AM yesterday in
   setting of 2.4L repletion yesterday. No signs of bleeding.
   - PM Hct check
   # Thrombocytopenia: HIT negative.  Platlets stable.
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin ~2.9.
   - Cont TPN
   .
   # Juvenille RA? On home dose Prednisone 15mg PO daily
   - Cont Hydrocortisone 75mg IV q 24, RISS with FSQID
   # Skin Intergity: Stage II Decub, improving per nursing.
   - f/u wound team
   # Anxiety: Increased Ativan to 1-4mg from 0.5. Improved sleep
   overnight.
   - Cont Lorazepam PRN
   - Social Work consult for coping
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-28**] 05:02 PM 90 mL/hour
   Clears
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: Sucralfate
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**]

2139-10-30 08:05:00 Physician Resident Progress Note
Chief Complaint: S/p excision of gastric ca, small bowel perf
   24 Hour Events:
   - Discussed patients anatomy with surgery team
   - Lovenox changed to therapeutic doses
   - Emailed pt's Crohn's physician to discuss steroid taper- would like a
   taper, no need to treat Crohn's at this time. Pt currently on hydrocort
   25mg IV/day
   - Replacing lost enterotomy drainage 1:1 with IVF
   - Vanc and Zosyn d/c'd, Flagyl left on board
   History obtained from Patient
   Allergies:
   History obtained from PatientPlasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2139-10-28**] 08:30 AM
   Vancomycin - [**2139-10-28**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-29**] 12:09 AM
   Metronidazole - [**2139-10-29**] 06:11 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-10-29**] 10:20 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Pain: [**12-24**] Minimal
   Pain location: abd
   Flowsheet Data as of  [**2139-10-30**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 88 (82 - 99) bpm
   BP: 91/40(52) {91/40(52) - 138/76(89)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  8,500 mL
                                                                  2,755 mL
   PO:
                                                                  2,520 mL
             TF:
   IVF:
                                                                  3,820 mL
                                                                  2,050 mL
   Blood products:
   Total out:
                                                                  8,995 mL
                                                                  1,940 mL
   Urine:
                                                                  3,975 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
                                                                  5,020 mL
                                                                    450 mL
   Balance:
                                                                   -495 mL
                                                                    815 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, ostomy device over abd intact
   and draining yellow liquid
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, right BKA, left AKA
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   134 K/uL
   9.0 g/dL
   82 mg/dL
   0.7 mg/dL
   20 mEq/L
   5.0 mEq/L
   23 mg/dL
   109 mEq/L
   136 mEq/L
   26.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2139-10-26**]  04:55 AM
                             [**2139-10-26**]  05:03 PM
                             [**2139-10-27**]  07:45 AM
                             [**2139-10-28**]  05:28 AM
                             [**2139-10-28**]  08:16 AM
                             [**2139-10-28**]  09:05 AM
                             [**2139-10-28**]  05:46 PM
                             [**2139-10-29**]  05:34 AM
                             [**2139-10-29**]  02:42 PM
                             [**2139-10-30**]  03:30 AM
   WBC
   7.5
   6.9
   5.9
   4.7
   5.5
   Hct
   29.6
   31.2
   27.9
   27.1
   25.7
   24.6
   26.4
   26.7
   Plt
   134
   149
   151
   136
   135
   134
   Cr
   0.9
   0.8
   0.9
   0.9
   0.7
   0.7
   0.7
   Glucose
   101
   102
   132
   96
   102
   120
   82
   Other labs: PT / PTT / INR:17.8/72.8/1.6, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:14/17, Alk Phos / T Bili:151/0.6,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.2 g/dL, LDH:241 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
   stage II decubitus
 EDEMA, PERIPHERAL
 CHRONIC PAIN
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERATION IN NUTRITION
 CANCER (MALIGNANT NEOPLASM), SMALL BOWEL
   55yoM with Crohn's, Antiphospholipid Ab c/b multiple abdominal
   surgeries, recently dx with mucinous adenoca s/p tumor and small bowel
   resection, now with perforated exposed small bowel and copious drainage
   # S/p Gastric Tumor Resection: Postoperative course c/b bile leak and
   bowel tear. Drain remains out.  PTC without bile leak, no drain
   placed.  Pt on clears took in 2500cc yesterday.  Now replacing fluid
   losses 1:1 NS without KCl (K 5.0 this am) per surgery. Afebrile,
   Hemodynamically stable and WBC WNL.
   - Surgery performing ostomy appliance bag changes and ventral wall
   wound care.
   - f/u surgery recs.
   - PM lytes check
   - Flagyl for suspected Clostridium Perfingens- surgery does not see
   further need for abx
   # Anemia:  Hct stable at 26.7. No signs of bleeding.
   - follow Hct
   # Thrombocytopenia: HIT negative.  Platlets stable.
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin 3.2.
   - Cont TPN
   .
   # Juvenille RA? On Hydrocort 25 daily now from home dose pred 15
   (equivalent to hydrocort 75)
   - Cont Hydrocortisone to taper over next several days, RISS with FSQID
   # Skin Intergity: Stage II Decub, improving per nursing.
   - f/u wound team
   # Anxiety: Ativan to 1-4mg q6 prn with good sleep overnight.
   - Cont Lorazepam PRN
   - Social Work consult for coping
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-29**] 05:36 PM 90 mL/hour. Pt getting a clear
   liquid diet
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2139-10-31 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Per surgery in afternoon- incr IVF to 1.5:1. Started on low residue
   diet. Surgery will monitor closely and change diet depending on ostomy
   outpt. Also per surgery, pt will stay in unit over the weekend.
   -Pm lytes all looked good. No repletion neccessary
   -TPN reordered
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2139-10-28**] 08:30 AM
   Vancomycin - [**2139-10-28**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-29**] 12:09 AM
   Metronidazole - [**2139-10-30**] 06:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-10-30**] 11:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-31**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 100 (81 - 120) bpm
   BP: 113/75(82) {106/56(65) - 137/79(90)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  8,252 mL
                                                                  2,274 mL
   PO:
                                                                  1,440 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  4,652 mL
                                                                  1,416 mL
   Blood products:
   Total out:
                                                                  7,880 mL
                                                                  2,440 mL
   Urine:
                                                                  4,830 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
                                                                  3,050 mL
                                                                  1,100 mL
   Balance:
                                                                    372 mL
                                                                   -166 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   126 K/uL
   8.9 g/dL
   98 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.2 mEq/L
   24 mg/dL
   106 mEq/L
   137 mEq/L
   26.4 %
   5.0 K/uL
        [image002.jpg]
                             [**2139-10-27**]  07:45 AM
                             [**2139-10-28**]  05:28 AM
                             [**2139-10-28**]  08:16 AM
                             [**2139-10-28**]  09:05 AM
                             [**2139-10-28**]  05:46 PM
                             [**2139-10-29**]  05:34 AM
                             [**2139-10-29**]  02:42 PM
                             [**2139-10-30**]  03:30 AM
                             [**2139-10-30**]  04:02 PM
                             [**2139-10-31**]  03:19 AM
   WBC
   6.9
   5.9
   4.7
   5.5
   5.0
   Hct
   31.2
   27.9
   27.1
   25.7
   24.6
   26.4
   26.7
   26.4
   Plt
   149
   151
   136
   135
   134
   126
   Cr
   0.9
   0.9
   0.7
   0.7
   0.7
   0.8
   0.7
   Glucose
   132
   96
   102
   120
   82
   105
   98
   Other labs: PT / PTT / INR:18.5/76.7/1.7, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:17/18, Alk Phos / T Bili:130/0.5,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:5.2 g/dL, LDH:241 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
   stage II decubitus
 EDEMA, PERIPHERAL
 CHRONIC PAIN
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERATION IN NUTRITION
 CANCER (MALIGNANT NEOPLASM), SMALL BOWEL
   55yoM with Crohn's, Antiphospholipid Ab c/b multiple abdominal
   surgeries, recently dx with mucinous adenoca s/p tumor and small bowel
   resection, now with perforated exposed small bowel and copious drainage
   # S/p Gastric Tumor Resection: Postoperative course c/b bile leak and
   bowel tear. Drain remains out.  PTC without bile leak, no drain
   placed.  Pt on clears took in 2500cc yesterday.  Now replacing fluid
   losses 1.5:1 NS without KCl per surgery. Afebrile, Hemodynamically
   stable and WBC WNL.
   - Surgery performing ostomy appliance bag changes and ventral wall
   wound care.
   - f/u surgery recs.
   - PM lytes check
   - Flagyl for suspected Clostridium Perfingens- surgery does not see
   further need for abx
   # Non-gap acidosis: Bicarb dropped from 23 to 19, likely due to fluid
   replacement with NS, but merits w/u in pt with bowel perforation.
   - VBG for pH and lactate
   - call surgery about replacing with LR rather than NS
   # Anemia:  Hct stable at 26.4. No signs of bleeding.
   - follow Hct
   # Thrombocytopenia: HIT negative.  Platlets stable.
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin 3.2.
   - Cont TPN, consider reducing NaCl in TPN
   .
   # Juvenille RA? On Hydrocort 25 daily now from home dose pred 15
   (equivalent to hydrocort 75)
   - Cont Hydrocortisone to taper over next several days, RISS with FSQID
   # Skin Intergity: Stage II Decub, improving per nursing.
   - f/u wound team
   # Anxiety: Ativan to 1-4mg q6 prn with good sleep overnight.
   - Cont Lorazepam PRN
   - Social Work consult for coping
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-30**] 04:49 PM 90 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2139-11-01 06:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Surgery indicated to keep in ICU until Monday when they can have a
   family meeting
   - Pt Bicarb dropped to 19, likely due to fluid replacement with NS ->
   switched to LR for replacement
   - Repeat bicarb of 23 and VBG with pH of 7.45/35/39, lactate of 1.2
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2139-11-1**] 03:09 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-11-1**] 03:08 AM
   Morphine Sulfate - [**2139-11-1**] 03:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-11-1**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 96 (94 - 105) bpm
   BP: 114/60(72) {96/44(61) - 132/83(94)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  8,020 mL
                                                                  2,195 mL
   PO:
                                                                    730 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  5,118 mL
                                                                  1,405 mL
   Blood products:
   Total out:
                                                                  7,835 mL
                                                                  1,700 mL
   Urine:
                                                                  3,885 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
                                                                  3,700 mL
                                                                    600 mL
   Balance:
                                                                    185 mL
                                                                    496 mL
   Respiratory support
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, ostomy device over abd intact
   and draining yellow liquid
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, right BKA, left AKA
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   110 K/uL
   8.6 g/dL
   97 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   24 mg/dL
   106 mEq/L
   138 mEq/L
   25.4 %
   4.9 K/uL
        [image002.jpg]
                             [**2139-10-28**]  08:16 AM
                             [**2139-10-28**]  09:05 AM
                             [**2139-10-28**]  05:46 PM
                             [**2139-10-29**]  05:34 AM
                             [**2139-10-29**]  02:42 PM
                             [**2139-10-30**]  03:30 AM
                             [**2139-10-30**]  04:02 PM
                             [**2139-10-31**]  03:19 AM
                             [**2139-10-31**]  06:00 PM
                             [**2139-11-1**]  04:54 AM
   WBC
   4.7
   5.5
   5.0
   4.9
   Hct
   27.1
   25.7
   24.6
   26.4
   26.7
   26.4
   25.4
   Plt
   136
   135
   134
   126
   110
   Cr
   0.7
   0.7
   0.7
   0.8
   0.7
   0.7
   Glucose
   102
   120
   82
   105
   98
   97
   Other labs: PT / PTT / INR:18.5/76.7/1.7, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:17/18, Alk Phos / T Bili:130/0.5,
   Amylase / Lipase:66/, Differential-Neuts:73.5 %, Band:0.0 %, Lymph:18.8
   %, Mono:6.1 %, Eos:0.6 %, Fibrinogen:344 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:5.2 g/dL, LDH:241 IU/L, Ca++:8.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
   stage II decubitus
 EDEMA, PERIPHERAL
 CHRONIC PAIN
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERATION IN NUTRITION
 CANCER (MALIGNANT NEOPLASM), SMALL BOWEL
   55yoM with Crohn's, Antiphospholipid Ab c/b multiple abdominal
   surgeries, recently dx with mucinous adenoca s/p tumor and small bowel
   resection, now with perforated exposed small bowel and copious drainage
   # S/p Gastric Tumor Resection: Postoperative course c/b bile leak and
   bowel tear. Drain remains out.  PTC without bile leak, no drain
   placed.  Pt on clears took in 2500cc yesterday.  Now replacing fluid
   losses 1:1 NS without KCl (K 5.0 this am) per surgery. Afebrile,
   Hemodynamically stable and WBC WNL.
   - Surgery performing ostomy appliance bag changes and ventral wall
   wound care.
   - f/u surgery recs.
   - PM lytes check
   - Flagyl for suspected Clostridium Perfingens- surgery does not see
   further need for abx
   # Non-Gap Metabolic Acidosis:
   Probable non-gap metabolic acidosis
          Check venous pH to confirm acidosis; check lactate
          Suspect this is due to high chloride in replacement fluid
   (normal saline) compared with ostomy losses.  Will attempt to measure
   lytes in ostomy losses and change replacement fluids to match.  In
   interim, discuss with primary team about alternate replacement fluids.
          Will adjust acetate-chloride balance in TPN as well over the
   next few days
   # Anemia:  Hct stable at 26.7. No signs of bleeding.
   - follow Hct
   # Thrombocytopenia: HIT negative.  Platlets stable.
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin 3.2.
   - Cont TPN
   .
   # Juvenille RA? On Hydrocort 25 daily now from home dose pred 15
   (equivalent to hydrocort 75)
   - Cont Hydrocortisone to taper over next several days, RISS with FSQID
   # Skin Intergity: Stage II Decub, improving per nursing.
   - f/u wound team
   # Anxiety: Ativan to 1-4mg q6 prn with good sleep overnight.
   - Cont Lorazepam PRN
   - Social Work consult for coping
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-10-31**] 03:58 PM 90 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-11-02 07:59:00 Physician Resident Progress Note
Chief Complaint: s/p resection of gastric ca
   [**54**] Hour Events:
   - Steroids D/C'd
   - Plan to decrease the amount of Cl in TPN
   -PT consult ordered
   History obtained from Patient
   Allergies:
   History obtained from PatientPlasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2139-11-2**] 01:50 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-11-2**] 05:30 AM
   Lorazepam (Ativan) - [**2139-11-2**] 06:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: Agitated, No(t) Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-11-2**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 99 (82 - 99) bpm
   BP: 132/71(84) {97/48(58) - 132/74(84)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  6,217 mL
                                                                  2,760 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                  3,880 mL
                                                                  2,050 mL
   Blood products:
   Total out:
                                                                  5,680 mL
                                                                  2,220 mL
   Urine:
                                                                  3,730 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
                                                                  1,950 mL
                                                                  1,300 mL
   Balance:
                                                                    537 mL
                                                                    541 mL
   Respiratory support
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, ostomy intact over open abd wound
   Extremities: Right: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   107 K/uL
   8.5 g/dL
   88 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.0 mEq/L
   21 mg/dL
   102 mEq/L
   134 mEq/L
   24.6 %
   4.1 K/uL
        [image002.jpg]
                             [**2139-10-28**]  05:46 PM
                             [**2139-10-29**]  05:34 AM
                             [**2139-10-29**]  02:42 PM
                             [**2139-10-30**]  03:30 AM
                             [**2139-10-30**]  04:02 PM
                             [**2139-10-31**]  03:19 AM
                             [**2139-10-31**]  06:00 PM
                             [**2139-11-1**]  04:54 AM
                             [**2139-11-1**]  05:31 PM
                            [**2139-11-2**]  04:43 AM
   WBC
   4.7
   5.5
   5.0
   4.9
   4.1
   Hct
   25.7
   24.6
   26.4
   26.7
   26.4
   25.4
   24.6
   Plt
   135
   134
   126
   110
   107
   Cr
   0.7
   0.7
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   102
   120
   82
   105
   98
   97
   133
   353
   88
   Other labs: PT / PTT / INR:17.8/71.3/1.6, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:17/18, Alk Phos / T Bili:130/0.5,
   Amylase / Lipase:66/, Differential-Neuts:78.5 %, Band:0.0 %, Lymph:14.6
   %, Mono:6.0 %, Eos:0.9 %, Fibrinogen:344 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:5.2 g/dL, LDH:241 IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
   stage II decubitus
 EDEMA, PERIPHERAL
 CHRONIC PAIN
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERATION IN NUTRITION
 CANCER (MALIGNANT NEOPLASM), SMALL BOWEL
   55yoM with Crohn's, Antiphospholipid Ab c/b multiple abdominal
   surgeries, recently dx with mucinous adenoca s/p tumor and small bowel
   resection, now with perforated exposed small bowel and copious drainage
   # S/p Gastric Tumor Resection: Now replacing fluid losses 1.5:1 with LR
   per surgery. Afebrile, Hemodynamically stable and WBC WNL.
   - Surgery performing ostomy appliance bag changes and ventral wall
   wound care.
   - f/u surgery recs.
   - Flagyl (Day #6), Clostridium Perfingens- surgery does not see further
   need for abx
   # Non-Gap Metabolic Acidosis: Improved overnight with transition to LR
   from NS repletion. Following with venous pH
   - Adjusts acetate-chloride balance in TPN
   .
   # Anemia:  Hct stable at 25.4, no active signs of bleeding.
   - follow Hct
   # Thrombocytopenia: HIT negative.  Platlets stable.
   -  Cont to monitor serially
   #  Crohns, Short-Gut:  Continue TPN, insulin in TPN to maintain good
   sugar control. Can use RISS as well. Albumin 3.2.
   - d/c steroids today
   .
   # Skin Intergity: Stage II Decub, improving per nursing.
   - f/u wound team
   # Anxiety: Ativan to 1-4mg q6 prn with good sleep overnight.
   - Cont Lorazepam PRN
   - Social Work consult for coping
   # Back Pain: [**3-2**]
   - Cont Morphine PRN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-11-1**] 03:57 PM 90 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-11-02 13:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, entero-cutaneous fistula, bile
   leak
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   WBC stable. Afebrile.
   Respiratory status stable.
   Output from drains approximately 2L in past 24 hours.
   Patient has taken some food over the weekend. Mild nausea, no vomiting.
   24 Hour Events:
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Plasma Expander Classifier
   Hives;
   Valium (Oral) (Diazepam)
   Nausea/Vomiting
   Mercaptopurine
   severe leukopen
   Remicade (Intraven) (Infliximab)
   Unknown;
   Shellfish Derived
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2139-11-2**] 01:50 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-11-2**] 05:30 AM
   Lorazepam (Ativan) - [**2139-11-2**] 06:58 AM
   Other medications:
   atrovent, insulin, LMWH
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-11-2**] 01:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.6
   HR: 97 (82 - 101) bpm
   BP: 116/69(80) {98/54(64) - 132/79(88)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 56.9 kg
   Height: 70 Inch
             Total In:
                                                                  6,217 mL
                                                                  3,213 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                  3,880 mL
                                                                  2,050 mL
   Blood products:
   Total out:
                                                                  5,680 mL
                                                                  3,200 mL
   Urine:
                                                                  3,730 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
                                                                  1,950 mL
                                                                  1,650 mL
   Balance:
                                                                    537 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, large ventral wound
   Extremities: Bilateral amputations
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   107 K/uL
   88 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.0 mEq/L
   21 mg/dL
   102 mEq/L
   134 mEq/L
   24.6 %
   4.1 K/uL
         [image002.jpg]
                             [**2139-10-28**]  05:46 PM
                             [**2139-10-29**]  05:34 AM
                             [**2139-10-29**]  02:42 PM
                             [**2139-10-30**]  03:30 AM
                             [**2139-10-30**]  04:02 PM
                             [**2139-10-31**]  03:19 AM
                             [**2139-10-31**]  06:00 PM
                             [**2139-11-1**]  04:54 AM
                             [**2139-11-1**]  05:31 PM
                            [**2139-11-2**]  04:43 AM
   WBC
   4.7
   5.5
   5.0
   4.9
   4.1
   Hct
   25.7
   24.6
   26.4
   26.7
   26.4
   25.4
   24.6
   Plt
   135
   134
   126
   110
   107
   Cr
   0.7
   0.7
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   102
   120
   82
   105
   98
   97
   133
   353
   88
   Other labs: PT / PTT / INR:17.8/71.3/1.6, CK / CKMB /
   Troponin-T:26/2/0.02, ALT / AST:17/18, Alk Phos / T Bili:130/0.5,
   Amylase / Lipase:66/, Differential-Neuts:78.5 %, Band:0.0 %, Lymph:14.6
   %, Mono:6.0 %, Eos:0.9 %, Fibrinogen:344 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, LDH:241 IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
   stage II decubitus
 EDEMA, PERIPHERAL
 CHRONIC PAIN
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERATION IN NUTRITION
 CANCER (MALIGNANT NEOPLASM), SMALL BOWEL
   ANEMIA
   Patient has been hemodynamically stable. Maintaining appropriate fluid
   balance given large drainage from wounds. Electrolytes in good range.
   WBC stable. No
   Hct has been stable at 25. Not at transfusion threshold.
   Patient started oral feedings; tolerating reasonably well.
   Patient to be transferred to floor. Case discussed with Dr. [**Last Name (STitle) **] (who
   was in the OR).
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-11-1**] 03:57 PM 90 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2139-10-19**] 02:01 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes